US07504408B2
N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine was prepared using the method described in example 4 using 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (1.0 g, 2.96 mmol), 5-chloro-7-iodo-1,3-benzodioxol-4-amine (0.97 g, 3.26 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 6.2 ml) in DMF (15 ml). The crude product was obtained as a pale bown solid (1.71 g, 97%) by quenching the reaction mixture with dilute aqueous ammonium chloride solution; Mass Spectrum: M+H+ 599/601.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 2.96 mmol, 1.0 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-chloro-7-iodo-1,3-benzodioxol-4-amine | 3.26 mmol, 0.97 g | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 6.2 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C23H24ClIN4O5
